US06232430B1
1 -(Benzyloxy)-4-(tert-butyldimethylsilyloxy)benzene
4-Benzyloxyphenol (39 g, 0.19 mole) and tert-butyldimethylsilyl chloride (32.31 g, 0.21 mole) were dissolved in dimethylformamide (200 ml). Imidazole (14.59 g, 0.21 mole) was added in portions and after the addition the reaction mixture was stirred overnight. Water was added and the mixture was extracted with ether. The combined organic layers were washed with water and dried over anhydrous calcium chloride. The solvent was evaporated to yield crystallized product (60.2 g, 0.19 mole, 98%).

reactant | 4-Benzyloxyphenol | 0.19 mole, 39 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | tert-butyldimethylsilyl chloride | 0.21 mole, 32.31 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | Imidazole | 0.21 mole, 14.59 g | N1C=NC=C1 | C3H4N2
reactant | Water | O | H2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 1 -(Benzyloxy)-4-(tert-butyldimethylsilyloxy)benzene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C | C19H26O2Si
